US07253164B2
To a solution of 2-(benzyloxyamino-methyl)-4H-benzo[1,4]thiazin-3-one (2.96 mmol) in 15 mL of formic acid at 0° C., acetic anhydride is added (15.1 mmol) and the reaction is stirred at room temperature overnight. The mixture is diluted with EtOAc and washed with water followed by brine and NaHCO3. Purification by column chromatography (hexane/EtOAc) gives N-benzyloxy-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-ylmethyl)-formamide. Yield: 81%. MS: (ES+): 329.2 [M+1].

reactant | 2-(benzyloxyamino-methyl)-4H-benzo[1,4]thiazin-3-one | 2.96 mmol | C(C1=CC=CC=C1)ONCC1SC2=C(NC1=O)C=CC=C2 | C16H16N2O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 15 mL | C(=O)O | CH2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-benzyloxy-N-(3-oxo-3,4-dihydro-2H-benzo[1,4]thiazin-2-ylmethyl)-formamide | Yield: 81% | C(C1=CC=CC=C1)ON(C=O)CC1SC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
